* Schematics Netlist *



X_U2A         EN SET HB1_SET $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB1_U2A         Q-NEG HB1_RESET Q $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB1_U1A         HB1_SET Q Q-NEG $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         RESET EN HB1_RESET $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_EN         STIM(1,1)
+ $G_DPWR $G_DGND
+ EN 
+ IO_STM
+ IO_LEVEL=0
+  0n 1  
+ 300n 0  
+ 400n 1  
U_SET         STIM(1,1)
+ $G_DPWR $G_DGND
+ SET 
+ IO_STM
+ IO_LEVEL=0
+  0n 0  
+ 100n 1  
+ 320n  0  
U_RESET         STIM(1,1)
+ $G_DPWR $G_DGND
+ RESET 
+ IO_STM
+ IO_LEVEL=0
+  0n 1  
+ 100n 0  
+ 320n 1  
